US05877174
A mixture of 3.65 g of 1-(2-azidoethyl)-4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazine, 14.6 ml of trifluoroacetic acid and 7.3 ml of anisole was refluxed for 2 hours. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent; chloroform: methanol=20:1) to obtain 1.8 g of 1-(2-azidoethyl)-2,3-dioxopiperazine as an oil.

reactant | 1-(2-azidoethyl)-4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazine | 3.65 g | N(=[N+]=[N-])CCN1C(C(N(CC1)CC1=C(C=C(C=C1)OC)OC)=O)=O | C15H19N5O4
reactant | trifluoroacetic acid | 14.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 7.3 ml | C1(=CC=CC=C1)OC | C7H8O
product | 1-(2-azidoethyl)-2,3-dioxopiperazine | 1.8 g | N(=[N+]=[N-])CCN1C(C(NCC1)=O)=O | C6H9N5O2
